Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=[CH:1][c:2]1[cH:3][cH:4][c:5]([Cl:6])[cH:7][cH:8]1.[F:9][C:10]([F:11])([F:12])[c:13]1[n:14][n:15][c:16]2[cH:17][cH:18][c:19]([N:20]3[CH2:21][CH2:22][CH2:23][NH:24][CH2:25][CH2:26]3)[n:27][n:28]12>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([Cl:6])[cH:7][cH:8]1)[N:24]1[CH2:23][CH2:22][CH2:21][N:20]([c:19]2[cH:18][cH:17][c:16]3[n:15][n:14][c:13]([C:10]([F:9])([F:11])[F:12])[n:28]3[n:27]2)[CH2:26][CH2:25]1,[F:9][C:10]([F:11])([F:12])[c:13]1[n:14][n:15][c:16]2[cH:17][cH:18][c:19]([N:20]3[CH2:21][CH2:22][CH2:23][NH:24][CH2:25][CH2:26]3)[n:27][n:28]12.[O:101]=[CH:1][c:2]1[cH:3][cH:4][c:5]([Cl:6])[cH:7][cH:8]1.[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([Cl:6])[cH:7][cH:8]1)[N:24]1[CH2:23][CH2:22][CH2:21][N:20]([c:19]2[cH:18][cH:17][c:16]3[n:15][n:14][c:13]([C:10]([F:9])([F:11])[F:12])[n:28]3[n:27]2)[CH2:26][CH2:25]1,reductive_amination,"[(24, 1), ([1, 101], 301), (101, 24.1), ([24.1, 24], 24), (24, [24, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 24], 24)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])OC(OC(C)(C)C)=O.[CH3:8][O:9][C:10](=[O:11])[C@@H:12]1[CH:13]=[CH:14][C@H:15]([NH2:16])[CH2:17]1>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:16][C@H:15]1[CH:14]=[CH:13][C@@H:12]([C:10]([O:9][CH3:8])=[O:11])[CH2:17]1,CC(C)(C)[O:202][C:201](=O)[O:101][C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7].[CH3:8][O:9][C:10](=[O:11])[C@@H:12]1[CH:13]=[CH:14][C@H:15]([NH2:16])[CH2:17]1>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:16][C@H:15]1[CH:14]=[CH:13][C@@H:12]([C:10]([O:9][CH3:8])=[O:11])[CH2:17]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(16, 6), ([6, 7], 7), (7, [7, 6]), ([6, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
BrC([Br:1])(Br)Br.O[CH2:2][CH2:3][C@@:4]1([C:5](=[O:6])[O:7][C:8]([CH3:9])([CH3:10])[CH3:11])[CH2:12][N:13]([C@H:14]([CH3:15])[c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[C:22](=[O:23])[CH:24]1[F:25]>>[Br:1][CH2:2][CH2:3][C@@:4]1([C:5](=[O:6])[O:7][C:8]([CH3:9])([CH3:10])[CH3:11])[CH2:12][N:13]([C@H:14]([CH3:15])[c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[C:22](=[O:23])[CH:24]1[F:25],[OH:101][CH2:2][CH2:3][C@@:4]1([C:5](=[O:6])[O:7][C:8]([CH3:9])([CH3:10])[CH3:11])[CH2:12][N:13]([C@H:14]([CH3:15])[c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[C:22](=[O:23])[CH:24]1[F:25].Br[C:102](Br)(Br)[Br:1].c1ccccc1[P:301](c2ccccc2)c3ccccc3>>[Br:1][CH2:2][CH2:3][C@@:4]1([C:5](=[O:6])[O:7][C:8]([CH3:9])([CH3:10])[CH3:11])[CH2:12][N:13]([C@H:14]([CH3:15])[c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[C:22](=[O:23])[CH:24]1[F:25],Appel,"[(301, 1), ([1, 102], 102), (102, 101.1), ([101.1, 101], 101), (101, 301), ([301, 1], 1), (1, 2), ([2, 101], [101, 301])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[Br:3][CH2:2][CH2:1]Br.[NH2:4][C:5](=[O:6])[c:7]1[n:8][n:9](-[c:10]2[cH:11][cH:12][cH:13][c:14]([I:15])[cH:16]2)[c:17]2[cH:18][cH:19][c:20]([OH:21])[cH:22][c:23]12>>[CH2:1]([CH2:2][Br:3])[O:21][c:20]1[cH:19][cH:18][c:17]2[n:9](-[c:10]3[cH:11][cH:12][cH:13][c:14]([I:15])[cH:16]3)[n:8][c:7]([C:5]([NH2:4])=[O:6])[c:23]2[cH:22]1,[NH2:4][C:5](=[O:6])[c:7]1[n:8][n:9](-[c:10]2[cH:11][cH:12][cH:13][c:14]([I:15])[cH:16]2)[c:17]2[cH:18][cH:19][c:20]([OH:21])[cH:22][c:23]12.[Br:101][CH2:1][CH2:2][Br:3].[H-:301].[Na+]>>[CH2:1]([CH2:2][Br:3])[O:21][c:20]1[cH:19][cH:18][c:17]2[n:9](-[c:10]3[cH:11][cH:12][cH:13][c:14]([I:15])[cH:16]3)[n:8][c:7]([C:5]([NH2:4])=[O:6])[c:23]2[cH:22]1,SN2_alcohol(thiol),"[(301, 21.1), ([21.1, 21], 21), (21, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][C:2]([O:3][CH3:4])=[O:5].[OH:6][CH2:7][CH2:8][N:9]1[CH2:10][CH2:11][CH2:12][CH2:13][c:14]2[c:15]([OH:16])[cH:17][cH:18][cH:19][c:20]21>>[CH2:1]([C:2]([O:3][CH3:4])=[O:5])[O:16][c:15]1[c:14]2[c:20]([cH:19][cH:18][cH:17]1)[N:9]([CH2:8][CH2:7][OH:6])[CH2:10][CH2:11][CH2:12][CH2:13]2,[OH:6][CH2:7][CH2:8][N:9]1[CH2:10][CH2:11][CH2:12][CH2:13][c:14]2[c:15]([OH:16])[cH:17][cH:18][cH:19][c:20]21.[Br:101][CH2:1][C:2]([O:3][CH3:4])=[O:5].[H-:301].[Na+]>>[CH2:1]([C:2]([O:3][CH3:4])=[O:5])[O:16][c:15]1[c:14]2[c:20]([cH:19][cH:18][cH:17]1)[N:9]([CH2:8][CH2:7][OH:6])[CH2:10][CH2:11][CH2:12][CH2:13]2,SN2_alcohol(thiol),"[(301, 16.1), ([16.1, 16], 16), (16, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
